US09085540B2
To a mixture of 5-chloro-6-ethyl-3-{[1-(piperidin-4-yl)-1H-pyrazol-4-yl]amino}pyrazine-2-carboxamide (350 mg) and diisopropylethylamine (685 μL) in N,N-dimethylformamide (3.5 mL) was added 2,2,2-trifluoroethyltrifluoromethanesulfonate (433 μL), followed by reacting at room temperature for 2 hours. The mixture was subjected to liquid separation by the addition of ethyl acetate and a saturated aqueous sodium hydrogen carbonate solution. The organic phase was washed with saturated brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=99:1-90:10) to obtain 5-chloro-6-ethyl-3-({1-[1-(2,2,2-trifluoroethyl)piperidin-4-yl]-1H-pyrazol-4-yl}amino)pyrazine-2-carboxamide (424 mg) as a yellow solid.

reactant | 5-chloro-6-ethyl-3-{[1-(piperidin-4-yl)-1H-pyrazol-4-yl]amino}pyrazine-2-carboxamide | 350 mg | ClC=1N=C(C(=NC1CC)C(=O)N)NC=1C=NN(C1)C1CCNCC1 | C15H20ClN7O
reactant | diisopropylethylamine | 685 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,2,2-trifluoroethyltrifluoromethanesulfonate | 433 μL | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
solvent | N,N-dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
product | 5-chloro-6-ethyl-3-({1-[1-(2,2,2-trifluoroethyl)piperidin-4-yl]-1H-pyrazol-4-yl}amino)pyrazine-2-carboxamide | 424 mg | ClC=1N=C(C(=NC1CC)C(=O)N)NC=1C=NN(C1)C1CCN(CC1)CC(F)(F)F | C17H21ClF3N7O
